US07504517B2
Preparation of 1-[(4-cyanophenylmethyl)amino]-3-[2-(4-methoxyphenyl)ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone:
To a solution of 1-amino-3-[2-(4-methoxy-phenyl)ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone hydrochloride (350 mg, 0.93 mmol), THF (4.5 mL), and 4-cyanobenzaldehyde (131 mg, 1.0 mmol) is stirred at 50° C. for 30 minutes, then cooled in an ice bath and glacial acetic acid (3.5 mL) is added. To the resulting mixture is added NaCNBH3 (183 mg, 2.9 mmol). The reaction is stirred in the cold for 2 hours and ethyl acetate and H2O are added. The mixture is made basic with solid NaHCO3, and the organic phase is washed with 10% aqueous NaHCO3 and brine. The organic phase is dried (Na2SO4) and concentrated under reduced pressure. The residue is purified over silica (45% ethyl acetate/hexanes) to afford 167 mg (40% yield) of the desired product. 1H NMR (CDCl3) δ 7.65 (m, 2H), 7.56 (d, J=8.4 Hz, 2H), 7.12 (d, J=7.8 Hz, 1H), 7.05 (m, 2H), 6.89 (m, 2H), 6.84 (m, 2H), 4.20 (m, 3H), 3.82 (s, 3H), 3.67 (m, 1H), 3.48 (t, J n=8.4 Hz, 1H), 3.06 (t, J=8.1 Hz, 1H), 2.91 (m, 1H), 2.76 (m, 1H), 2.67 (m, 1H), 2.29 (s, 3H), 2.26 (s, 3H). MS 455 (MH+). Anal. Calcd. For C28H30N4O2: C, 73.98, H, 6.65; N, 12.33. Found: C, 73.68, H, 6.65; N, 12.08.

reactant | 1-amino-3-[2-(4-methoxy-phenyl)ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone hydrochloride | 0.93 mmol, 350 mg | Cl.NN1C(N(C(C1)C1=CC(=C(C=C1)C)C)CCC1=CC=C(C=C1)OC)=O
reactant | 4-cyanobenzaldehyde | 1.0 mmol, 131 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | NaCNBH3 | 2.9 mmol, 183 mg | [BH3-]C#N.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 3.5 mL | C(C)(=O)O | C2H4O2
solvent | THF | 4.5 mL | C1CCOC1 | C4H8O
product | 1-[(4-cyanophenylmethyl)amino]-3-[2-(4-methoxyphenyl)ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone | 167 mg, 40% yield | C(#N)C1=CC=C(C=C1)CNN1C(N(C(C1)C1=CC(=C(C=C1)C)C)CCC1=CC=C(C=C1)OC)=O | C28H30N4O2
